US08536179B2
In a 50 ml flask was added ethyl (2E)-3-[3-methyl-1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indol-6-yl]-2-propenoate (120 mg, 0.251 mmol), and Ethanol (10 mL). PdOH2 (70.6 mg, 0.503 mmol) was added and the reaction was degassed with N2 for 15 min then H2 was bubbled in (via balloon) and the reaction stirred for 12 hr. The reaction was purged with N2 for 30 min and then filtered through an acro disc and evaporated. The residue was suspended in MeOH/Water (2 mL/4 mL) and filtered and washed with water to give a white solid. ethyl 3-[3-methyl-1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indol-6-yl]propanoate (70 mg, 0.146 mmol, 58.1% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.49 (br. s., 1H) 7.90 (br. s., 1H) 7.34 (s, 1H) 7.21 (s, 1H) 6.82 (s, 1H) 5.90 (s, 1H) 4.63-4.73 (m, 1H) 4.34 (d, J=4.55 Hz, 2H) 4.04 (q, J=7.07 Hz, 2H) 2.92 (t, J=7.33 Hz, 2H) 2.64 (t, J=7.45 Hz, 2H) 2.55-2.62 (m, 2H) 2.12 (s, 6H) 1.52-1.62 (m, 2H) 1.40 (d, J=6.32 Hz, 6H) 1.16 (t, J=7.07 Hz, 3H) 0.94 (t, J=7.20 Hz, 3H). MS (ES) [M+H]+ 479.8.

reactant | ethyl (2E)-3-[3-methyl-1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indol-6-yl]-2-propenoate | 0.251 mmol, 120 mg | CC1=CN(C2=CC(=CC(=C12)C(=O)NCC=1C(NC(=CC1CCC)C)=O)/C=C/C(=O)OCC)C(C)C | C28H35N3O4
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 3-[3-methyl-1-(1-methylethyl)-4-({[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]amino}carbonyl)-1H-indol-6-yl]propanoate | 0.146 mmol, 70 mg, 58.1% yield | CC1=CN(C2=CC(=CC(=C12)C(=O)NCC=1C(NC(=CC1CCC)C)=O)CCC(=O)OCC)C(C)C | C28H37N3O4
